US04410540
1,3-Diacetyl-4-ethyl-5-(4-methoxybenzoyl)-2-imidazolidinone
A solution of 10 g of 4-ethyl-5-(4-methoxybenzoyl)-2-imidazolidinone in 100 ml acetic anhydride is stirred at reflux for 5 hours after which the excess solvent is evaporated. The residue is purified by chromatography.

reactant | 4-ethyl-5-(4-methoxybenzoyl)-2-imidazolidinone | 10 g | C(C)C1NC(NC1C(C1=CC=C(C=C1)OC)=O)=O | C13H16N2O3
solvent | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1,3-Diacetyl-4-ethyl-5-(4-methoxybenzoyl)-2-imidazolidinone | C(C)(=O)N1C(N(C(C1C(C1=CC=C(C=C1)OC)=O)CC)C(C)=O)=O | C17H20N2O5
